US07148226B2
6-[2-(5-Chloro-2,4-dimethoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-3-(2-methyl-1H-imidazol-4-ylmethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example B(31), where 6-[2-(5-Chloro-2,4-dimethoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione (described below), as substituted in place of 6-[2-(3-Chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione and 2-methyl-1H-imidazole-4-carbaldehyde was substituted in place of 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde of that example.

reactant | 6-[2-(5-Chloro-2,4-dimethoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C(=CC(=C(C1)CCC1(CC(CC(O1)=O)=O)C1CCCC1)OC)OC | C20H25ClO5
reactant | 6-[2-(3-Chloro-4-isopropoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=CC1OC(C)C)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
reactant | 2-methyl-1H-imidazole-4-carbaldehyde | CC=1NC=C(N1)C=O | C5H6N2O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
product | 6-[2-(5-Chloro-2,4-dimethoxy-phenyl)-ethyl]-6-cyclopentyl-4-hydroxy-3-(2-methyl-1H-imidazol-4-ylmethyl)-5,6-dihydro-pyran-2-one | ClC=1C(=CC(=C(C1)CCC1(CC(=C(C(O1)=O)CC=1N=C(NC1)C)O)C1CCCC1)OC)OC | C25H31ClN2O5
